US08030500B2
N-((3-Bromo-4-fluorophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide
2-(3-Bromo-4-fluoro-benzoyl)-6-fluoro-benzonitrile (7.9 g, 24.5 mmol) dissolved in dry THF (40 mL) was added to a solution of titanium (IV) ethoxide (12.7 ml, 61.3 mmol) in dry THF (30 mL) at room temperature. 2-Methyl-2-propanesulfinamide (3.57 g, 29.4 mmol) was added and the resulting mixture was heated at reflux temperature for 22 h. The reaction mixture was cooled to room temperature and methanol (120 mL) was added, followed by addition of saturated sodium bicarbonate (12 mL). The resulting suspension was filtered through a pad of sodium sulfate and the solids were washed thoroughly with ethyl acetate. The filtrate was concentrated in vacuo and purified by flash column chromatography using a gradient of 30-50% ethyl acetate in hexanes to afford 5.7 g (55% yield) of the title compound.

reactant | 2-(3-Bromo-4-fluoro-benzoyl)-6-fluoro-benzonitrile | 24.5 mmol, 7.9 g | BrC=1C=C(C(=O)C2=C(C#N)C(=CC=C2)F)C=CC1F | C14H6BrF2NO
reactant | 2-Methyl-2-propanesulfinamide | 29.4 mmol, 3.57 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | methanol | 120 mL | CO | CH4O
reactant | sodium bicarbonate | 12 mL | C([O-])(O)=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | titanium (IV) ethoxide | 61.3 mmol, 12.7 ml | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | N-((3-Bromo-4-fluorophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 5.7 g, 55% yield | BrC=1C=C(C=CC1F)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C18H15BrF2N2OS
